US05238600
2-(4-[3-(trans-4-hexylcyclohexyl)-1-propyloxy]phenyl)-5-nonylpyrimidine;
2-(4-[3-(trans-4-heptylcyclohexyl)-1-propyloxy]phenyl)-5-nonylpyrimidine; 2-(4-[3-(trans-4-octylcyclohexyl)-1-propyloxy]phenyl)-5-nonylpyrimidine; 2-(4-[3-(trans-4-nonylcyclohexyl)-1-propyloxy]phenyl)-5-nonylpyrimidine;

reactant | 2-(4-[3-(trans-4-heptylcyclohexyl)-1-propyloxy]phenyl)-5-nonylpyrimidine | C(CCCCCC)[C@@H]1CC[C@H](CC1)CCCOC1=CC=C(C=C1)C1=NC=C(C=N1)CCCCCCCCC | C35H56N2O
reactant | 2-(4-[3-(trans-4-octylcyclohexyl)-1-propyloxy]phenyl)-5-nonylpyrimidine | C(CCCCCCC)[C@@H]1CC[C@H](CC1)CCCOC1=CC=C(C=C1)C1=NC=C(C=N1)CCCCCCCCC | C36H58N2O
reactant | 2-(4-[3-(trans-4-nonylcyclohexyl)-1-propyloxy]phenyl)-5-nonylpyrimidine | C(CCCCCCCC)[C@@H]1CC[C@H](CC1)CCCOC1=CC=C(C=C1)C1=NC=C(C=N1)CCCCCCCCC | C37H60N2O
product | 2-(4-[3-(trans-4-hexylcyclohexyl)-1-propyloxy]phenyl)-5-nonylpyrimidine | C(CCCCC)[C@@H]1CC[C@H](CC1)CCCOC1=CC=C(C=C1)C1=NC=C(C=N1)CCCCCCCCC | C34H54N2O
